US07037925B2
6,7-Dimethoxy-4-(3-methoxy-2-methylanilino)-3-quinolinecarboxamide
A mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide (0.046 g, 0.17 mmol), 3-methoxy-2-methylaniline (0.036 g, 0.26 mmol) and acetic acid (40 μl) in DMF (0.8 ml) was heated at 100° C. for 2.5 h. After cooling, the mixture was diluted with water (15 ml) and made alkaline with saturated NaHCO3. The resulting gummy precipitate was collected and crystallized from methanol-water to give the title compound (45 mg, 70%).

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 0.17 mmol, 0.046 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | 3-methoxy-2-methylaniline | 0.26 mmol, 0.036 g | COC=1C(=C(N)C=CC1)C | C8H11NO
reactant | acetic acid | 40 μl | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | water | 15 ml | O | H2O
product | 6,7-Dimethoxy-4-(3-methoxy-2-methylanilino)-3-quinolinecarboxamide | 45 mg, 70% | COC=1C=C2C(=C(C=NC2=CC1OC)C(=O)N)NC1=C(C(=CC=C1)OC)C | C20H21N3O4
